US05039672
2'-hydroxy-5'-fluoroacetophenone (2 gm) in tetrahydrofuran (10 mL) was added dropwise to sodium hydride (600 mg), then ethyl butyrate (10 mL) was added. After 30 minutes, aqueous 1N HCl (50 mL) was added, and the mixture extracted with ethyl acetate, and the extracts washed with H2O, saturated aqueous NaHCO3, brine, dried (Na2SO4), filtered and evaporated. The residue was dissolved in dichloromethane (100 mL), and trifluoroacetic acid (7 mL) added, and after stirring overnight at room temperature, dichloromethane and saturated aqueous NaHCO3 were added, and the layers separated. The organic layer was washed with H2O, brine, dried (Na2SO4), filtered and concentrated in vacuo to yield 6-fluoro-2-propyl-4H-1-benzopyran-4-one (2.4 gm, Rf=0.4 1:1 diethyl ether/hexanes). This compound (9 gm) was dissolved in ethanol (250 mL) and sodium borohydride (1.6 gm) added, and the mixture heated under reflux. After 3.5 hours additional sodium borohydride (1.6 gm) added, and after 7 hours a further addition of sodium borohydride (1.6 gm) was made. After 10 hours more sodium borohydride (0.8 gm) was added and after 23 hours total reaction time the mixture was concentrated under reduced pressure, and partitioned between ethyl acetate and H2O. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated to yield 4-hydroxy-2,3-dihydro-6-fluoro-2-propyl-4H-1-benzopyran-4-one (Rf=0.4 1:1 diethyl ether/hexanes). This material (10.8 gm) was dissolved in acetic acid (45 mL) and a solution of chromium trioxide (7.8 gm) in acetic acid (45 mL)/H2O (10 mL) was added dropwise. After one hour, the mixture was poured into ice/H2O (1L) and extracted with ethyl acetate. The extracts were washed with H2O, saturated NaHCO3, dried (Na2SO4), filtered and evaporated to yield the title compound (7.4 g, Rf=0.7, 1:1 diethyl ether/hexanes).

reactant | 2'-hydroxy-5'-fluoroacetophenone | 2 gm | OC1=C(C=C(C=C1)F)C(C)=O | C8H7FO2
reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | ethyl butyrate | 10 mL | C(CCC)(=O)OCC | C6H12O2
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-fluoro-2-propyl-4H-1-benzopyran-4-one | 2.4 gm | FC=1C=CC2=C(C(C=C(O2)CCC)=O)C1 | C12H11FO2
